US08008283B2
In a similar manner to Example 31, piretanide can be reacted with 3-(dimethylamino)propyl chloride hydrochloride, triethylamine and sodium iodide in dimethylformamide (DMF) to yield 3-(N,N-dimethylaminopropyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | 3-(dimethylamino)propyl chloride hydrochloride | Cl.CN(CCCCl)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N-dimethylaminopropyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)OCCCN(C)C)C=C(C1OC1=CC=CC=C1)N1CCCC1 | C22H29N3O5S
